US08377970B2
N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)-3-fluorophenyl]isonicotinamide hydrochloride
Following the general procedure-1, N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)-3-fluorophenyl]isonicotinamide (107 mg) was prepared from intermediate 28 (200 mg, 0.78 mmol) and isonicotinic acid (153 mg, 1.2 mmol) as a yellow solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min. Solid that separated out was filtered and dried to give the title compound (70 mg) as a pale-yellow solid. M.P.: 201.2-203.4° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 10.83 (s, 1H), 8.81 (d, J 5.9, 2H), 7.94 (dd, J 1.9, 12.6, 1H), 7.87 (d, J 5.9, 2H), 7.67 (dd, J 1.4, 8.6, 1H), 7.51 (t, J 8.7, 1H), 5.76 (s, 1H), 1.88-1.78 (m, 1H), 1.58-1.48 (m, 1H), 0.88-0.78 (m, 4H), 0.62-0.50 (m, 4H). MS (m/z): 363.14 [M+H—HCl]+.

reactant | N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)-3-fluorophenyl]isonicotinamide | 107 mg | C1(CC1)C1=NN(C(=C1)C1CC1)C1=C(C=C(C=C1)NC(C1=CC=NC=C1)=O)F | C21H19FN4O
reactant | isonicotinic acid | 1.2 mmol, 153 mg | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)-3-fluorophenyl]isonicotinamide hydrochloride | 70 mg | Cl.C1(CC1)C1=NN(C(=C1)C1CC1)C1=C(C=C(C=C1)NC(C1=CC=NC=C1)=O)F | InChI=1S/C21H19FN4O.ClH/c22-17-11-16(24-21(27)15-7-9-23-10-8-15)5-6-19(17)26-20(14-3-4-14)12-18(25-26)13-1-2-13;/h5-14H,1-4H2,(H,24,27);1H
